US06262040B1
1-Cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid (4-hydroxycarbamoylphenyl)-amide
A mixture of 187 mg (0.387 mmol, 1.0 equiv) 1-cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid (4-benzyloxycarbamoyl-phenyl)-amide and 200 mg 10% Pd/C in 10 mL ethyl acetate and 10 mL methanol was placed on a Parr® hydrogenation appartus and shaken under 30 psi H2 at room temperature for 1 hour. The reaction mixture was filtered through Celite®, and the filtrate concentrated and dried to give a tan solid. Purification on a silica gel column (CH3OH/CH2Cl2 gradient 4%, 10%, 20%, flash) gave 74 mg (49%) of a tan solid: mp 175° C. (dec); HRMS calcd for C22H24N4O3+H: 393.1928. Found: 393.1949.

reactant | 1-cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid (4-benzyloxycarbamoyl-phenyl)-amide | 0.387 mmol, 187 mg, 1.0 equiv | C(C1=CC=CC=C1)ONC(=O)C1=CC=C(C=C1)NC(=O)C1=CC=C2C(=NN(C2=C1)C1CCCC1)CC | C29H30N4O3
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 1-Cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid (4-hydroxycarbamoylphenyl)-amide | 74 mg, 49% | ONC(=O)C1=CC=C(C=C1)NC(=O)C1=CC=C2C(=NN(C2=C1)C1CCCC1)CC | C22H24N4O3
